US07094908B2
Methyl 2-(5,6-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate was prepared (46 mg, 19%) in the same manner as described in the above example 6 (1) from methyl 3-(5,6-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.24 g, 0.67 mmol) and p-toluenesulfonic acid monohydrate (51 mg), and the obtained product was identified with the following NMR data.

reactant | methyl 3-(5,6-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 0.67 mmol, 0.24 g | ClC=1C=C2C(N(C(C2=CC1Cl)=O)CC(C(=O)OC)C1(OCCO1)C)=O | C16H15Cl2NO6
reactant | p-toluenesulfonic acid monohydrate | 51 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Methyl 2-(5,6-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate | ClC=1C=C2C(N(C(C2=CC1Cl)=O)CC(C(=O)OC)C(C)=O)=O | C14H11Cl2NO5
